US04816452
c. Ethyl (Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]-3-oxobutyrate
2-Bromo-2-(4-methylcyclohex-1-yl)propane (1.99 g, 9.06 mmol), ethyl (Z)-2-hydroxyimino-3-oxobutyrate (1.44 g, 9.06 mmol) and silver trifluoromethanesulphonate (2.33 g) were reacted together in dry dioxane (8 ml) using a similar method to Example 9a. The title compound was obtained as an oil (1.31 g, 51%), νmax (CH2Cl2) 2920, 2860, 1740, 1685, 1370, 1320, 1235, 1070, and 1000 cm-1. δ13C (100 MHz, CDCl3) 14.14 (CH3), 22.55 (CH3), 23.24 (2×CH3), 25.11 (CH3), 26.8 (2×CH2), 32.76 (CH), 35.36 (2×CH2), 46.25 (CH), 61.7 (CH2) 87.6, 149.7, 161.6 (C=O), 193.1 (C=O); δH (400 MHz, CDCl3), 0.86 (3H, d, J 6.5 Hz), 0.8-0.95 (2H, m), 0.95-1.15 (2H, m), 1.29 (6H, s), 1.32 (3H, t, J 7.1 Hz), 1.2-1.35 (1H, m), 1.45-1.65 (2H, m), 1.65-1.80 (3H, m), 2.40 (3H, s), and 4.34 (2H, q, J 7.1 Hz).

reactant | 2-Bromo-2-(4-methylcyclohex-1-yl)propane | 9.06 mmol, 1.99 g | BrC(C)(C)C1CCC(CC1)C | C10H19Br
reactant | ethyl (Z)-2-hydroxyimino-3-oxobutyrate | 9.06 mmol, 1.44 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | silver trifluoromethanesulphonate | 2.33 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
product | Ethyl (Z)-2-[1-(trans-4-methylcyclohexyl)-1-methylethoxyimino]-3-oxobutyrate | C[C@@H]1CC[C@H](CC1)C(C)(O\N=C(/C(=O)OCC)\C(C)=O)C | C16H27NO4
